US08802670B2
2-Chloro-6-(4-methyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine was reacted with 3-amino-4-methylbenzeneboronic acid in general procedure A. Purification by flash chromatography on silica yielded 2-Methyl-5-[6-(4-methyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-2-yl]-phenylamine. To a solution of 2-Methyl-5-[6-(4-methyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-2-yl]-phenylamine (154 mg) in chloroform (10 ml) and acetic acid (2 ml) was added isoamyl nitrite (55 μL). The reaction mixture was stirred at room temperature for 3 days. The reaction mixture was diluted with chloroform and washed with a 50/50 mixture of saturated sodium bicarbonate solution and brine, dried (MgSO4) and the solvents were removed in vacuo to give a crude residue. This was purified by flash chromatography to yield the desired product.

reactant | 2-Chloro-6-(4-methyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)C)N2CCOCC2 | C16H22ClN5OS
reactant | 3-amino-4-methylbenzeneboronic acid | NC=1C=C(C=CC1C)B(O)O | C7H10BNO2
product | 2-Methyl-5-[6-(4-methyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-2-yl]-phenylamine | CC1=C(C=C(C=C1)C=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)C)N2CCOCC2)N | C23H30N6OS
